* gnetlist -g spice-sdb MP105_Practical.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 12.27.2005 by SDB --                *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from /home/Linus/Desktop/MP105_Components/12AX7.subckt vvvvvvvv
*  
*  First set of referential nodes: TubeA(110a,111a,112a,113a,114a), TubeB(110b,111b,112b,113b,114b)
*  Second set of referential nodes: Tube1(10a,11a,12a,13a,20a), Tube2(10b,11b,12b,13b,20b)
*  Ground: (0)
*
***************** p1g1c1p2g3c4****************************************
.subckt RCA12ax7  1 2 3 6 7 8
*************************  
eGIogVpca 20a 0 value={log(v(1,3))}
rGlogVpca 20a 0 1 
eG0a 10a 0 poly(1) <2,3>   -3.7694e+00   1.9947e+00   5.9432e-02    
eG1a 11a 0 poly(1) <2,3>   -3.2024e-02  -4.1443e-02  -4.8236e-03 
eG2a 12a 0 poly(1) <2,3>    1.9127e-02  -1.2189e-02  -1.5526e-03 
eG3a 13a 0 poly(1) <2,3>   -1.1354e-02   4.9339e-03   6.1016e-04  
rG0a 10a 0 1
rG1a 11a 0 1
rG2a 12a 0 1
rG3a 13a 0 1
gGa   2 3 value={(exp(v(10a)+v(20a)*(v(11a)+v(20a)*(v(12a)+v(20a)*v(13a)))))/170}
eP0a 110a 0 poly(1) <2,3>    -9.9158e+0  1.9145e+0 -2.8135e+0  1.8661e+0     
+							1.5643e+0  4.7240e-1  6.4276e-2  3.3101e-3 
eP1a 111a 0 poly(1) <2,3>     9.5428e-1  3.2558e-2 -8.3349e-1 -4.8578e-2  
+							2.6213e-1  1.0492e-1  1.8921e-2  1.3632e-3 
eP2a 112a 0 poly(1) <2,3>     9.5766e-2  2.5192e-2  2.2391e-1 -1.7040e-1 
+						   -2.4952e-1 -1.0960e-1 -2.0981e-2 -1.4882e-3
eP3a 113a 0 poly(1) <2,3>    -6.6107e-2 -3.9657e-2  7.5560e-2  3.1025e-2  
+							2.4265e-2  1.7002e-2  4.2512e-3  3.4761e-4
eP4a 114a 0 poly(1) <2,3>     8.4148e-3  4.7989e-3 -1.3258e-2 -1.9288e-3  
+							5.2888e-4 -5.6853e-4 -2.4727e-4 -2.4359e-5
rP0a 110a 0 1
rP1a 111a 0 1
rP2a 112a 0 1
rP3a 113a 0 1
rP4a 114a 0 1
gPa    1 3 value={(exp(v(110a)+v(20a)*(v(111a)+v(20a)*(v(112a)+v(20a)*(v(113a)+v(20a)*v(114a))))))}
Cgca 2 3 1.8p
Cgpa 2 1 1.7p
Cpca 1 3 1.9p
************************************SIDE 2********************
eGIogVpcb 20b 0 value={log(v(6,8))}
rGlogVpcb 20b 0 1 
eG0b 10b 0 poly(6) <7,8>   -3.7694e+00   1.9947e+00   5.9432e-02    
eG1b 11b 0 poly(6) <7,8>   -3.2024e-02  -4.1443e-02  -4.8236e-03 
eG2b 12b 0 poly(6) <7,8>    1.9127e-02  -1.2189e-02  -1.5526e-03 
eG3b 13b 0 poly(6) <7,8>   -1.1354e-02   4.9339e-03   6.1016e-04  
rG0b 10b 0 1
rG1b 11b 0 1
rG2b 12b 0 1
rG3b 13b 0 1
gGb   7 8 value={(exp(v(10b)+v(20b)*(v(11b)+v(20b)*(v(12b)+v(20b)*v(13b)))))/170}
eP0b 110b 0 poly(6) <7,8>    -9.9158e+0  1.9145e+0 -2.8135e+0  1.8661e+0     
+							1.5643e+0  4.7240e-1  6.4276e-2  3.3101e-3 
eP1b 111b 0 poly(6) <7,8>     9.5428e-1  3.2558e-2 -8.3349e-1 -4.8578e-2  
+							2.6213e-1  1.0492e-1  1.8921e-2  1.3632e-3 
eP2b 112b 0 poly(6) <7,8>     9.5766e-2  2.5192e-2  2.2391e-1 -1.7040e-1 
+						   -2.4952e-1 -1.0960e-1 -2.0981e-2 -1.4882e-3
eP3b 113b 0 poly(6) <7,8>    -6.6107e-2 -3.9657e-2  7.5560e-2  3.1025e-2  
+							2.4265e-2  1.7002e-2  4.2512e-3  3.4761e-4
eP4b 114b 0 poly(6) <7,8>     8.4148e-3  4.7989e-3 -1.3258e-2 -1.9288e-3  
+							5.2888e-4 -5.6853e-4 -2.4727e-4 -2.4359e-5
rP0b 110b 0 1
rP1b 111b 0 1
rP2b 112b 0 1
rP3b 113b 0 1
rP4b 114b 0 1
gPb    6 8 value={(exp(v(110b)+v(20b)*(v(111b)+v(20b)*(v(112b)+v(20b)*(v(113b)+v(20b)*v(114b))))))}
Cgcb 7 8 1.8p
Cgpb 7 6 1.7p
Cpcb 6 8 1.9p
.ends
*^^^^^^^^  End of included SPICE model from /home/Linus/Desktop/MP105_Components/12AX7.subckt ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from /home/Linus/Desktop/MP105_Components/1N5241B.subckt vvvvvvvv
*SRC=1N5241B;DI_1N5241B;Diodes;Zener 10V-50V; 11.0V  0.500W   Diodes Inc. Zener 
*SYM=HZEN 
.SUBCKT 1N5241B  1 2 
*   erminals    A   K 
D1 1 2 DF 
DZ 3 1 DR 
VZ 2 3 9.12 
.MODEL DF D ( IS=18.7p RS=1.24 N=1.10 
+ CJO=58.2p VJ=1.00 M=0.330 TT=50.1n ) 
.MODEL DR D ( IS=3.75f RS=0.949 N=2.45 ) 
.ENDS 
*^^^^^^^^  End of included SPICE model from /home/Linus/Desktop/MP105_Components/1N5241B.subckt ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from /home/Linus/Desktop/MP105_Components/2N3906.model vvvvvvvv
.MODEL 2N3906 pnp
+IS=7.75521e-12 BF=194.093 NF=1.35509 VAF=156.436
+IKF=0.0660057 ISE=1.88546e-12 NE=1.81673 BR=3.41317
+NR=1.5 VAR=5.86061 IKR=1.70599 ISC=7.64281e-10
+NC=1.92376 RB=6.48961 IRB=0.1 RBM=0.1
+RE=0.0001 RC=2.45044 XTB=0.1 XTI=1
+EG=1.05 CJE=6.11928e-12 VJE=0.4 MJE=0.248812
+TF=5.21843e-10 XTF=0.932702 VTF=9.1046 ITF=0.0106472
+CJC=6.85007e-12 VJC=0.4 MJC=0.279018 XCJC=0.9
+FC=0.478887 CJS=0 VJS=0.75 MJS=0.5
+TR=4.30605e-07 PTF=0 KF=0 AF=1
*^^^^^^^^  End of included SPICE model from /home/Linus/Desktop/MP105_Components/2N3906.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from /home/Linus/Desktop/MP105_Components/1N4007.model vvvvvvvv
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* February 2001
*   SPICE3
.model 1N4007 d is = 1.09774E-008 n = 1.78309 rs = 0.0414388
+ eg = 1.11 xti = 3
+ cjo = 2.8173E-011 vj = 0.50772 m = 0.318974 fc = 0.5
+ tt = 9.85376E-006 bv = 1100 ibv = 0.1 af = 1 kf = 0
*^^^^^^^^  End of included SPICE model from /home/Linus/Desktop/MP105_Components/1N4007.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from /home/Linus/Desktop/MP105_Components/2N3904.model vvvvvvvv
.MODEL 2N3904 npn
+IS=1.26532e-10 BF=206.302 NF=1.5 VAF=1000
+IKF=0.0272221 ISE=2.30771e-09 NE=3.31052 BR=20.6302
+NR=2.89609 VAR=9.39809 IKR=0.272221 ISC=2.30771e-09
+NC=1.9876 RB=5.8376 IRB=50.3624 RBM=0.634251
+RE=0.0001 RC=2.65711 XTB=0.1 XTI=1
+EG=1.05 CJE=4.64214e-12 VJE=0.4 MJE=0.256227
+TF=4.19578e-10 XTF=0.906167 VTF=8.75418 ITF=0.0105823
+CJC=3.76961e-12 VJC=0.4 MJC=0.238109 XCJC=0.8
+FC=0.512134 CJS=0 VJS=0.75 MJS=0.5
+TR=6.82023e-08 PTF=0 KF=0 AF=1
*^^^^^^^^  End of included SPICE model from /home/Linus/Desktop/MP105_Components/2N3904.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from /home/Linus/Desktop/MP105_Components/MPSA06.model vvvvvvvv
* Model generated on Dec 14, 01
* MODEL FORMAT: PSpice
.MODEL MPSA06 npn
+IS=6.03149e-15 BF=559.138 NF=0.841146 VAF=996.086
+IKF=0.187838 ISE=1e-08 NE=3.53096 BR=43.984
+NR=0.893292 VAR=1.45264 IKR=1e-05 ISC=3.06474e-11
+NC=3.98114 RB=0.01 IRB=0.269152 RBM=0.01
+RE=1e-05 RC=0.000928752 XTB=1.17305 XTI=1
+EG=1.05 CJE=5.54912e-11 VJE=0.577764 MJE=0.313139
+TF=5.4629e-10 XTF=23.7458 VTF=7.07849 ITF=4.69733
+CJC=1.76218e-11 VJC=0.4 MJC=0.285166 XCJC=0.902334
+FC=0.732277 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
*^^^^^^^^  End of included SPICE model from /home/Linus/Desktop/MP105_Components/MPSA06.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from /home/Linus/Desktop/MP105_Components/MPSA42.model vvvvvvvv
.MODEL MPSA42 NPN 
Is=34.9f Xti=3 Eg=1.11 Vaf=100 Bf=2.65K Ne=1.708 Ise=16.32p Ikf=23.79m Xtb=1.5 Br=9.769 Nc=2 Isc=0
Ikr=0 Rc=7 Cjc=14.23p Mjc=.5489 Vjc=.75 Fc=.5 Cje=49.62p Mje=.4136 Vje=.75 Tr=934.3p Tf=1.69n Itf=5
Vtf=20 Xtf=150 Rb=10

*^^^^^^^^  End of included SPICE model from /home/Linus/Desktop/MP105_Components/MPSA42.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from /home/Linus/Desktop/MP105_Components/AD826a.subckt vvvvvvvv
* AD826A SPICE Macro-model              Rev. A, 11/92
*                                       ARG / ADI
*
* This version of the AD826 model simulates the worst-case 
* parameters of the 'A' grade.  The worst-case parameters
* used correspond to those in the data sheet.
*
*
* Copyright 1993 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of
* this model indicates your acceptance of the terms and pro-
* visions in the License Statement.
*
* Node assignments
*                non-inverting input
*                |  inverting input
*                |  |  positive supply
*                |  |  |  negative supply
*                |  |  |  |  output
*                |  |  |  |  |
.SUBCKT AD826A   2  1  99 50 46
*
* INPUT STAGE AND POLE AT 160MHZ
*
I1   8    50   1E-3
Q1   4    1    6    QN
Q2   5    3    7    QN
CD   1    2    1.5E-12
CC1  1    0    2.4E-12
CC2  2    0    2.4E-12
R1   99   4    955
R2   99   5    955
C1   4    5    .521E-12
R3   6    8    903
R4   7    8    903
IOS  1    2   150E-9
EOS  3    2    POLY(1) (15,39) 2E-3 5
*
* GAIN STAGE AND DOMINANT POLE AT 12.5KHZ
*
EREF 98   0    (39,0) 1
G1   98   9    (4,5) 1.047E-3
R5   9    98   3.820E6
C2   9    98   3.333E-12
D1   9    10   DX
D2   11   9    DX
V1   99   10   2.25
V2   11   50   2.25
*
* COMMON MODE STAGE WITH ZERO AT 15.811KHZ
*
ECM  14   98   POLY(2) (1,39) (2,39) 0 0.5 0.5
R7   14   15   1E6
C4   14   15   10.066E-12
R8   15   98   10
*
*POLE AT 120MHZ
*
GP2  98   31   (9,39) 1E-6
RP2  31   98   1E6
CP2  31   98   1.326E-15
*
*ZERO AT 75MHZ
*
EZ1  32   98   (31,39) 1E6
RZ1  32   33   1E6   
RZ2  33   98   1
CZ1  32   33   2.12E-15
*
*ZERO AT 100MHZ
*
EZ2  34   98   (33,39) 1E6
RZ3  34   35   1E6
RZ4  35   98   1
CZ2  34   35   1.59E-15
*
*POLE AT 160MHZ
*
GP3  98   36   (35,39) 1E-6
RP3  36   98   1E6
CP3  36   98   .995E-15
*
*POLE AT 160MHZ
*
GP10 98   40   (36,39) 1E-6
RP10 40   98   1E6
CP10 40   98   .995E-15
*
* OUTPUT STAGE
*
RS1  99   39   20.548E3
RS2  39   50   20.548E3
RO1  99   45   16
RO2  45   50   16
G7   45   99   (99,40) 62.5E-3
G8   50   45   (40,50) 62.5E-3
G9   98   60   (45,40) 62.5E-3
D7   60   61   DX
D8   62   60   DX
V7   61   98   DC 0
V8   98   62   DC 0
FSY  99   50   POLY(2) V7 V8 5.77E-3 1 1
D9   41   45   DX
D10  45   42   DX
V5   40   41   0.4
V6   42   40   0.4
LO   45   46   .06E-9
*
* MODELS USED
*
.MODEL DX D(IS=1E-12)
.MODEL QN NPN(BF=74.76)
.ENDS AD826A
*^^^^^^^^  End of included SPICE model from /home/Linus/Desktop/MP105_Components/AD826a.subckt ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
R8 16 15 330K  
R6 33 45 4.99K  
R5 41 42 4.99K  
R4 45 46 49.9K  
R3 44 42 49.9K  
R2 48 49 10K  
R1 49 0 47K  
C29 6 8 47UF  
C28 3 6 220UF  
XU1B 41 33 4 0 31 AD826a
C27 9 11 47UF  
XU1A 52 27 4 0 27 AD826a
C26 7 9 47UF  
C25 5 7 220UF  
C24 1 5 220UF  
C23 0 37 1UF  
C22 29 0 47UF  
C21 2 0 2200UF  
C20 0 52 47UF  
V4out 50 unknown
Q6 12 13 14 MPSA42 
Q5 29 63 37 MPSA06 
D23 0 39 T1 3/4 
Q4 23 24 0 2N3904 
D22 11 12 1N4007 
.MODEL 1N4007 D (IS)
Q3 26 28 27 2N3906 
D21 10 11 1N4007 
.MODEL 1N4007 D (IS)
D20 9 10 1N4007 
.MODEL 1N4007 D (IS)
C19 0 0 .1UF  
C18 56 57 10UF  
V3 3 1 dc 0 ac 12
C17 66 67 10UF  
C16 15 18 .01UF  
C15 19 16 .15UF  
C14 62 20 .01UF  
V3outB 50 unknown
C13 36 35 47UF  
R99 38 19 250K  
V3outA 51 unknown
C12 32 31 .01UF  
R98 27 38 250K  
C11 31 33 .00012UF  
R40 17 28 470K  
R97 58 27 250K  
C10 27 41 .00012UF  
R96 17 58 250K  
D19 8 9 1N4007 
.MODEL 1N4007 D (IS)
D18 7 8 1N4007 
.MODEL 1N4007 D (IS)
D17 6 7 1N4007 
.MODEL 1N4007 D (IS)
D16 5 6 1N4007 
.MODEL 1N4007 D (IS)
D15 3 5 1N4007 
.MODEL 1N4007 D (IS)
D14 7 29 1N4007 
.MODEL 1N4007 D (IS)
D13 65 63 1N5241B 
D12 64 65 1N5241B 
D11 4 64 1N5241B 
D10 22 0 T1 3/4 
R39 54 53 10K  
R38 60 59 6.8K  
R37 60 61 6.8K  
U4 62 32 35 15 12AX7
U3 2 0 4 LM7812
R36 12 13 100K  
R35 29 63 10K  
R34 0 52 22K  
R33 52 4 12K  
R32 4 22 4.7K  
R31 40 39 1K  
R30 25 4 4.7K  
V1inB 61 unknown
V1inA 59 unknown
V2in 49 unknown
R29 26 24 47K  
R28 0 24 100K  
R27 50 0 100K  
R26 51 0 100K  
R25 56 55 .1K  
D9 0 1 1N4007 
.MODEL 1N4007 D (IS)
R24 67 54 .1K  
D8 0 3 1N4007 
.MODEL 1N4007 D (IS)
R23 53 55 10K  
D7 1 2 1N4007 
.MODEL 1N4007 D (IS)
R22 18 17 470K  
D6 3 2 1N4007 
.MODEL 1N4007 D (IS)
R21 28 27 100K  
D5 25 23 T1 3/4 
R20 21 0 1K  
D3 28 27 1N5241B 
D1 31 30 1N5241B 
R19 14 15 100K  
R18 0 20 1000K  
R17 38 36 4.7K  
R16 0 34 22K  
S3 60 37 NoConnection 4 40 NoConnection <No valid value attribute found>
R15 35 34 1K  
S2 66 50 57 57 51 66 <No valid value attribute found>
R14 14 62 100K  
S1 45 46 NoConnection 42 44 NoConnection <No valid value attribute found>
R13 34 32 1000K  
R12 30 28 10K  
R11 31 33 49.9K  
C5 46 48 1UF  
R10 27 41 49.9K  
C4 47 46 47UF  
C3 59 47 47UF  
XU2B 58 55 4 0 55 AD826a
C2 43 44 47UF  
XU2A 27 53 4 0 54 AD826a
C1 61 43 47UF  
C33 3 2 .05UF  
C32 13 0 22UF  
C31 0 12 22UF  
C30 8 10 47UF  
.END
