* E:\Amp Schems\LTSpice Models\Transformer Examples\Push Pull Transformer.asc
XWa1 P001 i winding n=7
L1 core 0 n=1 Hc=16 Bs=.44 Br=0.1 A=25u Lm=20m Lg=0m7
G1 0 flux core 0 {1u/25u}
C1 flux 0 1µ
XWa2 i P002 winding n=7
M1 M1 G1 0 0 Si4490DY
V1 i 0 28
La1 P001 M1 50n Rser=10m Rpar=1
La2 M2 P002 50n Rser=10m Rpar=1
M2 M2 G2 0 0 Si4490DY
V2 G1 0 PULSE(0 12 1u 150n 50n 4u1 10u) Rser=33
V3 G2 0 PULSE(0 12 6u 150n 50n 4u 10u) Rser=33
XWa3 P003 N001 winding n=10
XWa4 N001 P004 winding n=10
La3 P003 D1 100n Rser=20m Rpar=2
La4 D2 P004 100n Rser=20m Rpar=2
D1 0 D1 MURS320
D2 0 D2 MURS320
Lo N001 o 33µ Rser=10m Rpar=3k
Ro o 0 10
Co o 0 5µ Rser=10m
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.subckt winding 2 1 params: n=1
.global core
E1 1 3 core 0 {n}
V1 3 2 0
F1 0 core V1 {n}
.ends
.tran 0 500u 10u uic
* Note: This model uses the standard inductor symbol edited \n(ctrl-right-click) to appear as a winding subcircuit on a core \n(all connected together through a global node).  The core \nmodel is LTspice's built-in nonlinear Chan model and may \nhave as many windings as required.  Leakage inductances \nare placed separately (as beads) and have included series \nand parallel resistances adjusted to yield switching spikes \nthat are both reasonably realistic and fast running.
* Nonlinear Chan core
* Gain = C/Ac
* Note: core turns must be 1
* Flux Calculation\n(optional)
* Building a Push-Pull Saturating Core Transformer Model in LTspice\n(analogspiceman - Dec 2006)
* Drive pulse widths are slightly imbalanced\nin order to show core saturation effects.
.backanno
.end
