***************** p g c ***************************************************
.subckt RCA12ax7  1 2 3
*************************  
eGIogVpc 20 0 value={log(v(1,3))}
rGlogVpc 20 0 1 
eG0 10 0 poly(1) <2,3>   -3.7694e+00   1.9947e+00   5.9432e-02    
eG1 11 0 poly(1) <2,3>   -3.2024e-02  -4.1443e-02  -4.8236e-03 
eG2 12 0 poly(1) <2,3>    1.9127e-02  -1.2189e-02  -1.5526e-03 
eG3 13 0 poly(1) <2,3>   -1.1354e-02   4.9339e-03   6.1016e-04  
rG0 10 0 1
rG1 11 0 1
rG2 12 0 1
rG3 13 0 1
gG   2 3 value={(exp(v(10)+v(20)*(v(11)+v(20)*(v(12)+v(20)*v(13)))))/170}
eP0 110 0 poly(1) <2,3>    -9.9158e+0  1.9145e+0 -2.8135e+0  1.8661e+0     
+							1.5643e+0  4.7240e-1  6.4276e-2  3.3101e-3 
eP1 111 0 poly(1) <2,3>     9.5428e-1  3.2558e-2 -8.3349e-1 -4.8578e-2  
+							2.6213e-1  1.0492e-1  1.8921e-2  1.3632e-3 
eP2 112 0 poly(1) <2,3>     9.5766e-2  2.5192e-2  2.2391e-1 -1.7040e-1 
+						   -2.4952e-1 -1.0960e-1 -2.0981e-2 -1.4882e-3
eP3 113 0 poly(1) <2,3>    -6.6107e-2 -3.9657e-2  7.5560e-2  3.1025e-2  
+							2.4265e-2  1.7002e-2  4.2512e-3  3.4761e-4
eP4 114 0 poly(1) <2,3>     8.4148e-3  4.7989e-3 -1.3258e-2 -1.9288e-3  
+							5.2888e-4 -5.6853e-4 -2.4727e-4 -2.4359e-5
rP0 110 0 1
rP1 111 0 1
rP2 112 0 1
rP3 113 0 1
rP4 114 0 1
gP    1 3 value={(exp(v(110)+v(20)*(v(111)+v(20)*(v(112)+v(20)*(v(113)+v(20)*v(114))))))}
Cgc 2 3 1.8p
Cgp 2 1 1.7p
Cpc 1 3 1.9p
.ends

.DC Vpc 5 500 5 Vgc -5.0 1.0 0.5

.probe
.end
