*SRC=1N5241B;DI_1N5241B;Diodes;Zener 10V-50V; 11.0V  0.500W   Diodes Inc. Zener 
*SYM=HZEN 
.SUBCKT 1N5241B  1 2 
*   erminals    A   K 
D1 1 2 DF 
DZ 3 1 DR 
VZ 2 3 9.12 
.MODEL DF D ( IS=18.7p RS=1.24 N=1.10 
+ CJO=58.2p VJ=1.00 M=0.330 TT=50.1n ) 
.MODEL DR D ( IS=3.75f RS=0.949 N=2.45 ) 
.ENDS 
